US04263207
β-Carboxyethyl 10,11-Dihydro-11-oxodibenzo[b,f][1,4]thiazepin-3-carboxylate
Dissolve 1.0 gm. of 3-chlorocarbonyl-10,11-dihydro-11-oxodibenzo[b,f][1,4]thiazepine in 20 cc. of tetrahydrofuran and add 1.0 gm. of the sodium salt of β-hydroxypropionic acid. Stir the mixture at room temperature for 18 hours. Filter and evaporate the filtrate to dryness. Recrystallize the solid residue from ethanol to obtain the title product.

reactant | 3-chlorocarbonyl-10,11-dihydro-11-oxodibenzo[b,f][1,4]thiazepine | ClC(=O)C1=CC2=C(C(NC3=C(S2)C=CC=C3)=O)C=C1 | C14H8ClNO2S
reactant | sodium | [Na] | Na
reactant | β-hydroxypropionic acid | OCCC(=O)O | C3H6O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | β-Carboxyethyl 10,11-Dihydro-11-oxodibenzo[b,f][1,4]thiazepin-3-carboxylate | O=C1NC2=C(SC3=C1C=CC(=C3)C(=O)OCCC(=O)O)C=CC=C2 | C17H13NO5S
